US08530670B2
1-(1H-Benzo[d]imidazol-5-yl)-4-(cyclohexylamino)-5-(2,3,5-trifluorophenyl)-1H-pyrrol-2(5H)-one (E25)
The compound was synthesized starting from 1-(1H-benzo[d]imidazol-5-yl)-4-hydroxy-5-(2,3,5-trifluorophenyl)-1H-pyrrol-2(5H)-one (0.115 g, 0.3 mmol) and cyclohexylamine (0.48 ml, 4.2 mmol) according to method 7 described above.

reactant | 1-(1H-benzo[d]imidazol-5-yl)-4-hydroxy-5-(2,3,5-trifluorophenyl)-1H-pyrrol-2(5H)-one | 0.3 mmol, 0.115 g | N1C=NC2=C1C=CC(=C2)N2C(C=C(C2C2=C(C(=CC(=C2)F)F)F)O)=O | C17H10F3N3O2
reactant | cyclohexylamine | 4.2 mmol, 0.48 ml | C1(CCCCC1)N | C6H13N
product | 1-(1H-Benzo[d]imidazol-5-yl)-4-(cyclohexylamino)-5-(2,3,5-trifluorophenyl)-1H-pyrrol-2(5H)-one | N1C=NC2=C1C=CC(=C2)N2C(C=C(C2C2=C(C(=CC(=C2)F)F)F)NC2CCCCC2)=O | C23H21F3N4O
